US03953457
2-Hydrazinoquinoline (50.0 grams; about 0.3 mole) and 3-ethoxypropionic acid (100 grams; about 0.85 mole) were mixed and refluxed for eight hours. The reaction mixture was then allowed to cool and made basic with 50 percent sodium hydroxide. A precipitate, the desired 1-(2-ethoxyethyl)-s-triazolo(4,3-a)quinoline, formed. It was separated by filtration and recrystallized from ethanol, m.p., 93°C. The identity of the product was confirmed by NMR and by microanalysis.

reactant | 2-Hydrazinoquinoline | about 0.3 mole, 50.0 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | 3-ethoxypropionic acid | about 0.85 mole, 100 grams | C(C)OCCC(=O)O | C5H10O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(2-ethoxyethyl)-s-triazolo(4,3-a)quinoline | C(C)OCCC1=NN=C2N1C1=CC=CC=C1C=C2 | C14H15N3O
